US07378448B2
Combine benzyl-[2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (2.7 g, 8.3 mmol), 4-fluoronitrobenzene (1.2 g, 8.3 mmol), cesium carbonate (5.4 g, 16.6 mmol), and N,N-dimethylformamide (70 mL), stir at room temperature overnight. Pour the reaction into brine then extract with ethyl acetate (3×100 mL). The combined ethyl acetate extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (3.5 g). The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate and hexanes to yield benzyl-{2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (2.7 g): 1H NMR (CDCl3, 300.00 MHz): 8.22 (d, 2H, J=9.2 Hz), 7.44-6.95 (m, 11H), 4.44 (m, 2H), 3.44 (m, 2H), 2.84 (m, 2H), 1.52 (m, 9H). Step 4 {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-benzyl-carbamic acid tert-butyl ester

reactant | benzyl-[2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 8.3 mmol, 2.7 g | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)O)CC1=CC=CC=C1)=O | C20H25NO3
reactant | 4-fluoronitrobenzene | 8.3 mmol, 1.2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cesium carbonate | 16.6 mmol, 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | benzyl-{2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 2.7 g | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1)=O | C26H28N2O5
